US04942163
Preparation of N,N,N'-Trimethyl-N'-(7-methyl-3-(1-naphthalenyl)-1-isoquinolinyl)-1,2-ethanediamine
A mixture of the product of Example 31, Part A, 1-chloro-7-methyl-3-(1-naphthalenyl)-isoquinoline (2.00 g, 6.58 mmol), N,N,N'-trimethylethanediamine (1.7 mL, 13.4 mmol), and potassium carbonate (2.75 g, 19.9 mmol) in DMF (5 mL) was refluxed overnight. The reaction mixture was cooled to room temperature, diluted with water, and extracted with methylene chloride. The combined organic extracts were washed with water, dried, and concentrated. The residue was purified by flash chromatography with 1:1 hexane-ethyl acetate to afford the title compound (2.08 g, 5.63 mmol, 86% yield) as an oil: IR(CHCl3) 3052, 1591 cm-1 ; MS m/e 370(M+ +H); 1H NMR(CDCl3) δ 8.23-8.37(m,1H), 8.03(s,1H), 7.80-7.97(m,2H), 7.63-7.79(m,2H), 7.33-7.62(m,5H), 3.62(t,J=7 Hz,2H), 3.13(s,3H), 2.80(t,J=7 Hz,2H), 2.60(s,3H), 2.30(s,6H).

reactant | 1-chloro-7-methyl-3-(1-naphthalenyl)-isoquinoline | 6.58 mmol, 2.00 g | ClC1=NC(=CC2=CC=C(C=C12)C)C1=CC=CC2=CC=CC=C12 | C20H14ClN
reactant | N,N,N'-trimethylethanediamine | 13.4 mmol, 1.7 mL | CN(C(C)NC)C | C5H14N2
reactant | potassium carbonate | 19.9 mmol, 2.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N,N,N'-Trimethyl-N'-(7-methyl-3-(1-naphthalenyl)-1-isoquinolinyl)-1,2-ethanediamine | 5.63 mmol, 2.08 g, 86% yield | CN(CCN(C1=NC(=CC2=CC=C(C=C12)C)C1=CC=CC2=CC=CC=C12)C)C | C25H27N3
